US08067408B2
A mixture of methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate (8.52 g, 18.3 mmol), LiOH (3.84 g, 91.5 mmol), water (30 mL) and methanol (60 mL) was stirred at room temperature overnight. The aqueous layer was acidified with 2 N HCl to pH around 1. Brine (30 mL) was added to the solution. White solid was precipitated out from the solution. The solid was filtered off and washed with water. The aqueous layer was extracted with ethyl acetate twice. The combined organic layers were concentrated under vacuum to give a solid. All solid was dissolved in DCM and combined into one batch. Solvent was concentrated to give crude residue. The crude residue was then triturated with ether to give 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid as a white solid (7.72 g, 86%). LC-MS m/z 452 (M+H)+.

reactant | methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 18.3 mmol, 8.52 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=CC2)CC | C25H31N5O4
reactant | LiOH | 91.5 mmol, 3.84 g | [Li+].[OH-]
reactant | water | 30 mL | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | Brine | 30 mL | [Cl-].[Na+].O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | methanol | 60 mL | CO | CH4O
product | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 7.72 g, 86% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
